US05945556
47.8 g(0.25 mol) of 2,4-dichlorobenzoic acid are dissolved in 500 g of dimethylacetamide, 26.3 g (0.35 mol) of glycine and 1.7 g (7.5 mmol) of basic copper carbonate are added and the mixture is heated to 80° C. After addition of 24 g (0.6 mol) of NaOH and 22.5 g (0.16 mol) of K2CO3, the mixture is heated at 140° C. for 5 h. It is cooled to room temperature, diluted with 200 ml of water and adjusted to pH 2 with hydrochloric acid, and the crystalline product is filtered off. 43.9 g (0.19 mol, 77%) of N-carboxymethylene-4-chloroanthranilic acid are obtained.

reactant | 2,4-dichlorobenzoic acid | 0.25 mol, 47.8 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | glycine | 0.35 mol, 26.3 g | NCC(=O)O | C2H5NO2
reactant | NaOH | 0.6 mol, 24 g | [OH-].[Na+]
reactant | K2CO3 | 0.16 mol, 22.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylacetamide | 500 g | CC(=O)N(C)C | C4H9NO
solvent | water | 200 ml | O | H2O
catalyst | copper carbonate | 7.5 mmol, 1.7 g | C([O-])([O-])=O.[Cu+2]
product | N-carboxymethylene-4-chloroanthranilic acid | 0.19 mol, 43.9 g, 77% | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
